US05223498
A mixture of 1-(2-morpholinophenyl)-3-methylthiourea (5 g) and methyliodide (2.8 g) in acetone (30 ml) was heated at reflux for 4 hours to yield 2-methyl-1-(2-morpholinophenyl)-3-methyl-2-thiopseudourea hydroiodide (m.p. 163°-164° C.) which was recrystallised from a 1:3 mixture of methanol and ether.

reactant | 1-(2-morpholinophenyl)-3-methylthiourea | 5 g | O1CCN(CC1)C1=C(C=CC=C1)NC(=S)NC | C12H17N3OS
reactant | methyliodide | 2.8 g | CI | CH3I
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 2-methyl-1-(2-morpholinophenyl)-3-methyl-2-thiopseudourea hydroiodide | I.CSC(NC1=C(C=CC=C1)N1CCOCC1)=NC | InChI=1S/C13H19N3OS.HI/c1-14-13(18-2)15-11-5-3-4-6-12(11)16-7-9-17-10-8-16;/h3-6H,7-10H2,1-2H3,(H,14,15);1H
